US07790751B2
Preparation of N-[3-(1-Naphthylsulfonyl)-1H-indazol-5-yl]piperidine-4-carboxamide Hydrochloride
A mixture of 3-(1-naphthylsulfonyl)-1H-indazol-5-amine (300 mg, 0.928 mmol), 1-Boc-piperidine-4-carboxylic acid (276 mg, 1.21 mmol), 1-[3-(dimethylamino)propyl)]-3-ethylcarbodimide hydrochloride (231 mg, 1.21 mmol) in CH3CN was stirred at room temperature overnight and concentrated to dryness to provide a residue. The residue was treated with TFA at room temperature for 2 hours and concentrated to dryness in vacuo. The resultant residue was purified by reverse phase HPLC to give a solid. The solid was dispersed in methanol and chloroform, treated with aqueous HCl solution, concentrated and dried in vacuo to provide the title compound as a milky light orange solid, characterized by HNMR and mass spectral analyses, MS (ES+) m/e 435 (MH+).

reactant | 3-(1-naphthylsulfonyl)-1H-indazol-5-amine | 0.928 mmol, 300 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)N | C17H13N3O2S
reactant | 1-Boc-piperidine-4-carboxylic acid | 1.21 mmol, 276 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | 3-ethylcarbodimide hydrochloride | 1.21 mmol, 231 mg | Cl.C(C)N=C=N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | Cl | ClH
solvent | CH3CN | CC#N | C2H3N
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[3-(1-Naphthylsulfonyl)-1H-indazol-5-yl]piperidine-4-carboxamide Hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)NC(=O)C1CCNCC1 | InChI=1S/C23H22N4O3S.ClH/c28-22(16-10-12-24-13-11-16)25-17-8-9-20-19(14-17)23(27-26-20)31(29,30)21-7-3-5-15-4-1-2-6-18(15)21;/h1-9,14,16,24H,10-13H2,(H,25,28)(H,26,27);1H
